US06963007B2
In a glass reaction vessel, 650 milligrams (1.3 mmol) CH3(CH2)10CH2C≡C—C≡C(CH2)11OSi(Me2(CMe3)) was dissolved in 6.5 milliliters THF. To this stirred solution was added 2.0 milliliters TBAF (1 molar solution in THF). After 1 h of stirring, the reaction mixture was filtered and concentrated to 520 milligrams of CH3(CH2)10CH2C≡C—C≡C(CH2)11OH which was used without further purification. In a glass reaction vessel, the CH3(CH2)10CH2C≡C—C≡C(CH2)11OH was dissolved in 6.5 milliliters CH2Cl2 and 150 μL (2.0 mmol) methanesulfonyl chloride and 360 μL (2.6 mmol) triethyl amine were added. The reaction was stirred for 2 h and worked up using CH2Cl2 and brine. The CH2Cl2 layer was dried (MgSO4), filtered, and concentrated to 680 milligrams of CH3(CH2)10CH2C≡C—C≡C(CH2)11OS(O2)CH3 which was used without further purification. In a glass reaction vessel, the CH3(CH2)10CH2C≡C—C≡C(CH2)11OS(O2)CH3 was dissolved in 6.5 milliliters DMF and 570 milligrams (8.8 mmol) sodium azide was added. The reaction was stirred for 20 h and worked up using pentane and brine. The pentane layer was dried (MgSO4), filtered and concentrated. This material was purified using column chromatography eluting with 9% dichloromethane in hexanes to yield 260 milligrams of CH3(CH2)10CH2C≡C—C≡C(CH2)11N3. In a glass reaction vessel, the CH3(CH2)10CH2C≡C—C≡C(CH2)11N3 was dissolved in 10 milliliters THF and 0.5 milliliters water and 330 milligrams (1.3 mmol) triphenyl phosphine was added. After 20 h of stirring, hydrogen chloride gas was bubbled through the mixture for 30 seconds. The resulting solid was filtered and washed with diethyl ether to yield 190 milligrams CH3(CH2)10CH2C≡C—C≡C(CH2)11NH3Cl.

reactant | TBAF | 1 molar, 2.0 milliliters | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | CH3(CH2)10CH2C≡C—C≡C(CH2)11OH | CCCCCCCCCCCCC#CC#CCCCCCCCCCCCO | C27H48O
reactant | methanesulfonyl chloride | 2.0 mmol, 150 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethyl amine | 2.6 mmol, 360 μL | C(C)N(CC)CC | C6H15N
reactant | CH3(CH2)10CH2C≡C—C≡C(CH2)11OS(O2)CH3 | CCCCCCCCCCCCC#CC#CCCCCCCCCCCCOS(=O)(=O)C | C28H50O3S
reactant | sodium azide | 8.8 mmol, 570 milligrams | [N-]=[N+]=[N-].[Na+]
solvent | THF | 6.5 milliliters | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 6.5 milliliters | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
solvent | DMF | 6.5 milliliters | CN(C)C=O | C3H7NO
solvent | pentane | CCCCC | C5H12
product | CH3(CH2)10CH2C≡C—C≡C(CH2)11N3 | 260 milligrams | CCCCCCCCCCCCC#CC#CCCCCCCCCCCCN=[N+]=[N-] | C27H47N3
